US08735417B2
To 4-[5-(3-methyl-5-{[4-(methylsulfanyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one (50 mg, 0.117 mmol) stirring in dichloromethane (586 μL) at room temperature was added 3-chloroperbenzoic acid (27.6 mg, 0.123 mmol). Stirred for 3 hr. at room temperature, diluted with 10% Na2S2O3 (aq.), and washed with sat. NaHCO3 (aq.) and brine. The organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo. Purified by reverse phase preparative HPLC (0:100 to 95:5 acetonitrile:water: 0.1% v/v trifluoroacetic acid modifier) to afford 4-[5-(3-methyl-5-{[4-(methylsulfinyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one (3.3 mg, 7.5 μmol, 6.36% yield) as a yellow solid. MS APCI: [M+H]+ m/z 443.1. 1H NMR (500 MHz, CDCl3) δ 8.67 (d, J=4.9 Hz, 1H), 7.68 (s, 1H), 7.48 (s, 1H), 7.44 (d, J=4.9 Hz, 1H), 7.34-7.29 (m, 1H), 7.19 (s, 1H), 6.96 (s, 1H), 5.93-5.85 (m, 1H), 4.28 (s, 2H), 3.46 (s, 2H), 2.93 (s, 2H), 2.37 (s, 3H), 2.16-2.01 (m, 2H), 1.25 (s, 3H). rhSYK activity=+++.

reactant | 4-[5-(3-methyl-5-{[4-(methylsulfanyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one | 0.117 mmol, 50 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)SC)C1=CN=C(S1)N1CC(NCCC1)=O | C20H22N6OS2
reactant | 3-chloroperbenzoic acid | 0.123 mmol, 27.6 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 586 μL | ClCCl | CH2Cl2
solvent | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
product | 4-[5-(3-methyl-5-{[4-(methylsulfinyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,4-diazepan-2-one | 7.5 μmol, 3.3 mg, 6.36% yield | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)S(=O)C)C1=CN=C(S1)N1CC(NCCC1)=O | C20H22N6O2S2
